datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])([H:8])[H:9])[H:7])[H:6]>>[C:0](#[C:1][C:2]1([H:7])[C:3]([H:8])([H:9])[C:4]([H:10])[C:5]1([H:11])[H:12])[H:6],150.457
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]([H:25])([H:26])[C:9]1([H:27])[H:28])([H:16])[H:17])([H:14])[H:15])[H:13])([H:10])([H:11])[H:12]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:24])[C:8]([H:25])([H:26])[C:9]1([H:27])[H:28])([H:16])[H:17])([H:14])[H:15])([H:13])[H:23])([H:10])([H:11])[H:12],101.6712
[C:0](#[C:1][C:2]#[C:3][C:4]([H:6])([H:7])[H:8])[H:5].[C:9](=[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])[H:16])[H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2](=[C:3][C:4]([H:6])([H:7])[H:8])[C:11]([C:10](=[C:9]([H:13])[H:14])[H:15])([C:12]([H:17])([H:18])[H:19])[H:16])[H:5],61.965
[O:0]=[S:1]([O:2][H:4])[H:3].[O:5][H:6]>>[H:3][O:5][H:6].[O:0]=[S:1][O:2][H:4],0.0
[C:0]([C:1]([S:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[C:9]([C:10]([C:11]([H:17])([H:18])[H:19])[C:12](=[S:13])[H:20])([H:14])([H:15])[H:16]>>[C:0]([C:1]([S:2][H:8])[H:7])([H:3])([H:4])[H:5].[H:6][C:10]([C:9]([H:14])([H:15])[H:16])([C:11]([H:17])([H:18])[H:19])[C:12](=[S:13])[H:20],77.404
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[C:5]([H:14])[H:15])[H:13])[H:9])[H:8])([H:6])[H:7].[C:16](=[C:17]([C:18]([C:19]([H:24])([H:25])[H:26])[C:20]([H:27])([H:28])[H:29])[H:23])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[C:5]([H:14])[H:15])[H:13])[H:8])([H:6])[H:7].[H:9][C:18]([C:17](=[C:16]([H:21])[H:22])[H:23])([C:19]([H:24])([H:25])[H:26])[C:20]([H:27])([H:28])[H:29],56.4003
[C:0](#[C:1][S:2][H:4])[H:3].[c:5]1[c:6]([H:11])[c:7]([H:12])[c:8]([H:13])[c:9]([H:14])[c:10]1[H:15]>>[C:0](#[C:1][S:2])[H:3].[H:4][c:5]1[c:6]([H:11])[c:7]([H:12])[c:8]([H:13])[c:9]([H:14])[c:10]1[H:15],-23.8488
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[C:12](=[C:13]=[C:14]([H:16])[H:17])[H:15]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][C:12](=[C:13]=[C:14]([H:16])[H:17])[H:15],35.564
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:21])[C:5]([H:22])([H:23])[C:6]12[C:7]([H:24])[C:8]([H:25])=[C:9]([H:26])[C:10]([H:27])=[C:11]2[H:28])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:22])[H:23])([c:6]1[c:7]([H:24])[c:8]([H:25])[c:9]([H:26])[c:10]([H:27])[c:11]1[H:28])[H:21])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14],19.8224
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[H:9])[H:8])([H:5])([H:6])[H:7].[O:14][O:15]>>[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[H:9])([H:8])[O:14][O:15])([H:5])([H:6])[H:7],0.0
[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([C:6]([H:14])([H:15])[H:16])[C:7](=[C:8]([H:18])[H:19])[H:17])[H:13])([H:11])[H:12])[H:10])[H:9]>>[C:0](#[C:1][C:2]1([H:10])[C:3]([H:11])([H:12])[C:4]1([C:5]([C:6]([H:14])([H:15])[H:16])[C:7](=[C:8]([H:18])[H:19])[H:17])[H:13])[H:9],48.2834
[O:0]([S:1])[H:2]>>[O:0][H:2].[S:1],315.0
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])([c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])[H:12])([H:9])([H:10])[H:11].[C:21]([H:22])([H:23])[H:24]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])[c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])([H:9])([H:10])[H:11].[H:12][C:21]([H:22])([H:23])[H:24],15.0624
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6])([H:17])[H:18])([O:7][O:8][H:19])[H:16])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:14])([H:17])[H:18])([O:7][O:8][H:19])[H:16])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11],76.1488
[N:0](=[N:1][N:2]([H:4])[H:5])[H:3]>>[N:0]#[N:1].[N:2]([H:3])([H:4])[H:5],142.2
[C:0]([O:1][C:2]([C:3]([C:4]([C:5]([C:6]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8]>>[C:0]([O:1][C:2]([C:3]([C:4]([C:5]([C:6]([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:7])([H:8])[H:17],62.3416
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]=[C:14]([H:17])[H:18])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[H:15])[H:5].[C:12](=[C:13]=[C:14]([H:17])[H:18])[H:16],45.6056
[C:0](=[C:1]1[C:2]([H:12])([H:13])[C:3]([H:14])[c:4]2[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]21)([H:10])[H:11]>>[C:0](=[C:1]1[C:2]([H:13])=[C:3]([H:14])[c:4]2[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]21)([H:10])[H:11].[H:12],168.506416
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7](#[C:8][C:9]([C:10]([H:14])([H:15])[H:16])[C:11]#[C:12][H:17])[H:13]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][C:9]([C:8]#[C:7][H:13])([C:10]([H:14])([H:15])[H:16])[C:11]#[C:12][H:17],72.3832
